US08975254B2
b) 3-nitro-5-(1H-pyrazol-5-yl)picolinonitrile
3-Nitro-5-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)picolinonitrile (8.77 mmol) was dissolved in 10% HCl (g) in EtOH (15 ml) and stirred at RT overnight. 20 ml of water was added to the reaction mixture, followed by addition of sat. sodium bicarbonate solution until pH was neutral. Thus resulting precipitate was filtered, washed with water and dried in vacuum to yield 1.76 g (93%) of the title compound. 1H-NMR (400 MHz; d6-DMSO): δ 7.22 (m, 1H), 7.98 (m, 1H), 8.99 (d, 1H), 9.50 (d, 1H), 13.5 (bs, 1H).

reactant | 3-Nitro-5-(1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazol-5-yl)picolinonitrile | 8.77 mmol | [N+](=O)([O-])C=1C(=NC=C(C1)C1=CC=NN1C1OCCCC1)C#N | C14H13N5O3
reactant | water | 20 ml | O | H2O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | HCl | Cl | ClH
solvent | EtOH | 15 ml | CCO | C2H6O
product | 3-nitro-5-(1H-pyrazol-5-yl)picolinonitrile | 1.76 g, 93% | [N+](=O)([O-])C=1C(=NC=C(C1)C1=CC=NN1)C#N | C9H5N5O2
